US07238716B2
To a mixture of potassium t-butoxide (0.47 g) and dimethoxyethane (8 mL) was added a solution (8 mL) of toluenesulfonylmethylisocyanide (0.43 g) in dimethoxyethane at −78° C. Furthermore, a solution (8 mL) of 6-methyl-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]nicotinaldehyde (0.84 g) in dimethoxyethane was added to the reaction mixture. The reaction mixture was stirred at −78° C. for 1 hr. Methanol (10 mL) was added to the reaction mixture at room temperature and the mixture was heated under reflux for 30 min. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel, column chromatography to give crystals (0.67 g, 79%) of 2-[6-methyl-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetonitrile from a fraction eluted with ethyl acetate-hexane (1:6, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 122-123° C.

reactant | potassium t-butoxide | 0.47 g | CC(C)([O-])C.[K+]
reactant | toluenesulfonylmethylisocyanide | 8 mL, 0.43 g | C=1(C(=CC=CC1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | 6-methyl-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]nicotinaldehyde | 8 mL, 0.84 g | CC1=NC(=C(C=O)C=C1)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C25H22N2O4
reactant | Methanol | 10 mL | CO | CH4O
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 8 mL | C(OC)COC | C4H10O2
solvent | water | O | H2O
product | 2-[6-methyl-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetonitrile | 0.67 g, 79% | CC1=CC=C(C(=N1)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)CC#N | C26H23N3O3
